US04026936
A suspension of 63 g. (0.24 mol) of 2-(3-nitro-4-chlorobenzoyl)thiazole in 3 liters of a saturated solution of ammonia in ethanol was autoclaved at 100° C. for 24 hrs. The mixture was concentrated in vacuo and the resulting residue dissolved in 1.5 liters of warm 5N hydrochloric acid. The solution was cooled to room temperature and neutralized with concentrated ammonium hydroxide to yield 2-(3-nitro-4-aminobenzoyl)thiazole as yellow-orange prisms, mp. 179°-181° C. (methanol).

reactant | 2-(3-nitro-4-chlorobenzoyl)thiazole | 0.24 mol | [N+](=O)([O-])C=1C=C(C(=O)C=2SC=CN2)C=CC1Cl | C10H5ClN2O3S
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2-(3-nitro-4-aminobenzoyl)thiazole | [N+](=O)([O-])C=1C=C(C(=O)C=2SC=CN2)C=CC1N | C10H7N3O3S
